US07749992B2
Step 6. Preparation of 7-Methyl-8-trifluoromethoxy-1,2,3,4-tetrahydro-benzo[b]azepin-5-one
Add a solution of 2-[tert-Butoxycarbonyl-(3-methoxycarbonyl-propyl)-amino]-5-methyl-4-trifluoromethoxy-benzoic acid methyl ester (1.1 g, 2.4 mmol), in toluene (25 mL) to a solution of potassium t-butoxide (0.51 g, 4.9 mmol) in toluene (75 mL) at 100° C. over 30 min. After heating for 1 h cool the reaction to room temperature and quench the reaction with acetic acid (5.0 mmol). Dilute the reaction with ethyl acetate (100 mL) and wash with water (2×200 mL) followed by brine (200 mL). Dry the organics over sodium sulfate and remove solvent under vacuum. Dissolve the residue in acetic acid (25 mL) and dilute with concentrated HCl (15 mL) and water (10 mL). Heat the mixture at 100° C. for 2 h then cool to room temperature. While cooling in an ice bath neutralize the reaction with 5 N NaOH. Extract the organics with ethyl acetate (200 mL) and wash the organic with brine (100 mL). Remove solvent under vacuum and chromatograph the crude product over silica gel using ethyl acetate/hexane (5-20%) to elute. This provides the title compound (0.28 g, 44%) as an oil that crystallizes upon standing: H NMR (CDCl3, 400 MHz) δ 2.11-2.18 (m, 5H), 2.81 (t, J=6.8 Hz, 2H), 3.24 (t, J=6.8 Hz, 2H), 6.61 (m, 1H), 7.59 (s, 1H). MS (ES+): 260 (M+H).

reactant | 2-[tert-Butoxycarbonyl-(3-methoxycarbonyl-propyl)-amino]-5-methyl-4-trifluoromethoxy-benzoic acid methyl ester | 2.4 mmol, 1.1 g | COC(C1=C(C=C(C(=C1)C)OC(F)(F)F)N(CCCC(=O)OC)C(=O)OC(C)(C)C)=O | C20H26F3NO7
reactant | potassium t-butoxide | 4.9 mmol, 0.51 g | CC(C)([O-])C.[K+]
reactant | acetic acid | 5.0 mmol | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 7-Methyl-8-trifluoromethoxy-1,2,3,4-tetrahydro-benzo[b]azepin-5-one | 0.28 g, 44% | CC1=CC2=C(NCCCC2=O)C=C1OC(F)(F)F | C12H12F3NO2
